US03971819
Ethyl 3-benzylamino-5-sulphamyl-4-(m-trifluoromethylphenoxy)-benzoate
A mixture of 3-amino-5-sulphamyl-4-(m-trifluoromethylphenoxy)-benzoic acid (1.82 g), benzyl bromide (2 g), and anhydrous ethanol (15 ml) was refluxed for 7 hours. The soluton was cooled, and the precipitated ethyl 3-benzylamino-5-sulphamyl-4-(m-trifluoromethylphenoxy)-benzoate was collected by suction. After recrystallization from ethanol, the melting pont was 166°-168°C.

reactant | 3-amino-5-sulphamyl-4-(m-trifluoromethylphenoxy)-benzoic acid | 1.82 g | NC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)C(F)(F)F)S(N)(=O)=O | C14H11F3N2O5S
reactant | benzyl bromide | 2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | Ethyl 3-benzylamino-5-sulphamyl-4-(m-trifluoromethylphenoxy)-benzoate | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1OC1=CC(=CC=C1)C(F)(F)F)S(N)(=O)=O | C23H21F3N2O5S
